US09102774B2
Adhesive Properties of Octyl Acrylate Based Pressure-Sensitive Adhesives
The acrylic monomers generated in Examples 1 and 10-12, 2-OA, 2-EHA, and LA were each prepared into adhesive films using the following procedure. The alkyl acrylate (28.5 g), 0.02 g of IRGACURE 651 (Ciba), 0.3 g of acrylic acid (AA, Alfa Aesar), and 1.2 g of hydroxyethyl acrylate (HEA, Aldrich) were mixed using a magnetic stir bar in a clear glass vial. The glass vial was then purged with nitrogen for 5 minutes to remove dissolved oxygen, and then treated with UV light (365 nm, approximately 5 mW/cm2) until a coatable viscosity was achieved. The target for this step was an approximate viscosity of 3000 cP at room temperature and acrylic conversion of approximately 10%.

reactant | 2-OA | CCCCCC#CC(=O)O | C8H12O2
reactant | 2-EHA | CCCCC(CC)C(=O)O | C8H16O2
reactant | IRGACURE 651 | 0.02 g | COC(C1=CC=CC=C1)(C(=O)C2=CC=CC=C2)OC | C16H16O3
reactant | acrylic acid | 0.3 g | C(C=C)(=O)O | C3H4O2
reactant | hydroxyethyl acrylate | 1.2 g | C(C=C)(=O)OCCO | C5H8O3
product | Octyl Acrylate | C(C=C)(=O)OCCCCCCCC | C11H20O2
